US07022689B2
To a solution of 0.21 g of ethyl N-[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]oxalamate in 3 mL of N,N-dimethylformamide was added 56 mg of lithium chloride, and the mixture was stirred at 140° C. for 4 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the mixture was extracted with ethyl acetate. After the organic layer was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure to give 0.198 g of N-[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]oxalamic acid.

reactant | ethyl N-[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]oxalamate | 0.21 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)NC(C(=O)OCC)=O)OC | C23H27N3O6S
reactant | lithium chloride | 56 mg | [Cl-].[Li+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)ethyl]-5-isopropylphenyl]oxalamic acid | 0.198 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)NC(C(=O)O)=O)O | C20H21N3O6S
